US08686048B2
Intermediate 11: 3,5-dichloro-3′-methoxybiphenyl-4-amine
The title compound (0.550 g) was prepared from 2,6-dichloro-4-bromoaniline (0.5 g, 2.0 mmol) and 3-methoxyphenylboronic acid (0.409 g, 2.69 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.58 (s, 2H), 7.29 (t, J 7.8, 1H), 7.18-7.10 (m, 2H), 6.85 (dd, J 2, 8.1, 1H), 5.63 (s, 2H), 3.81 (s, 3H).

reactant | 2,6-dichloro-4-bromoaniline | 2.0 mmol, 0.5 g | ClC1=C(N)C(=CC(=C1)Br)Cl | C6H4BrCl2N
reactant | 3-methoxyphenylboronic acid | 2.69 mmol, 0.409 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3,5-dichloro-3′-methoxybiphenyl-4-amine | 0.550 g | ClC=1C=C(C=C(C1N)Cl)C1=CC(=CC=C1)OC | C13H11Cl2NO
